US06177423B1
11H, 11-Methoxy-5,8,10-trioxabenzo[de]anthracene-4,6-dione
Bromine (0.3 mL, 5.8 mmol) was added to a suspension of 11H-5,8,10-trioxabenzo[de]anthracene-4,6-dione (0.3 g, 1.2 mmol, from Example K1) in chloroform (20 mL). The mixture was refluxed for 3 hours under nitrogen atmosphere. Methanol (10 mL) was added and the reaction mixture refluxed for additional 3 hours and concentrated in vacuo. The solids obtained were washed with methanol and dried to give 0.16 g of the title compound.

reactant | Bromine | 5.8 mmol, 0.3 mL | BrBr | Br2
reactant | 11H-5,8,10-trioxabenzo[de]anthracene-4,6-dione | 1.2 mmol, 0.3 g | C1=CC=C2C(OC(C=3C=C4OCOCC4=C1C23)=O)=O | C14H8O5
reactant | Methanol | 10 mL | CO | CH4O
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 11-Methoxy-5,8,10-trioxabenzo[de]anthracene-4,6-dione | 0.16 g | COC1C2=C3C=4C(C(OC(C4C=C2OCO1)=O)=O)=CC=C3 | C15H10O6
